US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2,4-difluoro-benzamide
From 2,4-difluorobenzoic acid, HATU and N-ethyldiisopropylamine in THF, then treatment with (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine. [α]D20=+19.4° (c=1.00, CHCl3), ES-MS m/e (%): 407 (M+H+, 100).

reactant | 2,4-difluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine | O1C(COCC1)C1=CC=C(C=2N=C(SC21)N)OC | C12H14N2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2,4-difluoro-benzamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=C(C=C(C=C2)F)F)=O)OC | C19H16F2N2O4S
